US05451700
A stirred solution of 2,4-dihydroxy-N-(1-methylethyl)-N-phenylbenzamide (358 mg, 1.32 mmol) in 6 mL of N,N-dimethylformamide is treated with cesium carbonate (520 mg, 1.58 mmol), and 5-(4-cyanophenoxy)pentyl bromide (354 mg, 1.32 mmol) and stirred at 40° C. for 24 hours. The reaction is partitioned between ethyl acetate and water, dried over sodium sulfate and concentrated in vacuo to afford a yellow foam. This material is purified by chromatography on silica gel (30 g) with 30-70% ethyl acetate/hexane as the eluent to afford 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N-(1-methylethyl)-N-phenylbenzamide as colorless foam.

reactant | 2,4-dihydroxy-N-(1-methylethyl)-N-phenylbenzamide | 1.32 mmol, 358 mg | OC1=C(C(=O)N(C2=CC=CC=C2)C(C)C)C=CC(=C1)O | C16H17NO3
reactant | cesium carbonate | 1.58 mmol, 520 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(4-cyanophenoxy)pentyl bromide | 1.32 mmol, 354 mg | C(#N)C1=CC=C(OCCCCCBr)C=C1 | C12H14BrNO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N-(1-methylethyl)-N-phenylbenzamide | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C3=CC=CC=C3)C(C)C)C=C2)O)C=C1 | C28H30N2O4
